US04992433
A mixture of 16.7 parts of ethyl 4-[[4-(6-chloro-3-pyridazinyl)-1-piperazinyl]-methyl]benzoate and 11.3 parts of 2-hydroxyethanamine was stirred for 4 hours at 140° C. After cooling, the reaction mixture was stirred into water. The precipitated product was filtered off, washed with 2,2'-oxybispropane and converted into the hydrochloride salt in 2-propanol. The salt was filtered off, washed with 2-propanol and 2,2'-oxybispropane and dried at 70° C., yielding 9.7 parts (51.1%) of 4-[[4-(6-chloro-3-pyridazinyl)-1-piperazinyl]methyl]-N-(2-hydroxyethyl)benzamide monohydrochloride; mp. >260° C. (decomp.) (comp. 167).

reactant | ethyl 4-[[4-(6-chloro-3-pyridazinyl)-1-piperazinyl]-methyl]benzoate | ClC1=CC=C(N=N1)N1CCN(CC1)CC1=CC=C(C(=O)OCC)C=C1 | C18H21ClN4O2
reactant | 2-hydroxyethanamine | OCCN | C2H7NO
solvent | water | O | H2O
product | 4-[[4-(6-chloro-3-pyridazinyl)-1-piperazinyl]methyl]-N-(2-hydroxyethyl)benzamide monohydrochloride | 51.1% | Cl.ClC1=CC=C(N=N1)N1CCN(CC1)CC1=CC=C(C(=O)NCCO)C=C1 | InChI=1S/C18H22ClN5O2.ClH/c19-16-5-6-17(22-21-16)24-10-8-23(9-11-24)13-14-1-3-15(4-2-14)18(26)20-7-12-25;/h1-6,25H,7-13H2,(H,20,26);1H
